US07491724B2
(1S,2S)-N-hydroxy-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]-5-(pyrrolidin-1-ylcarbonyl)cyclohexanecarboxamide
Part 8. methyl(1S, 2S)-2-[(4-phenylpiperidin-1-yl)carbonyl]-5-(pyrrolidin-1-ylcarbonyl)cyclohexanecarboxylate: The product from Part 7 (0.112 g, 0.395 mmol) was dissolved in DMF (4.0 mL) and treated with BOP reagent (0.210 g, 0.474 mmol). After stirring for 10 min, the HCl salt of 4-phenyl-1,2,3,6-tetrahydropyridine (81 mg, 0.415 mmol) was added followed by N, N-diisopropylethylamine (206 μL, 1.18 mmol). The reaction mixture was stirred at rt overnight. It was poured into a saturated aq. NaHCO3 solution and extracted with EtOAc. The organic phase was washed with water (2×) and brine, dried over MgSO4, filtered and concentrated. The residue was flash chromatographed (silica, hexanes:EtOAc, 5:1 to 4:1 to 3:1) to provide the desired product (0.126 g, 79.7% yield). LCMS: m/z 425.2 (M+H)+.

reactant | methyl(1S, 2S)-2-[(4-phenylpiperidin-1-yl)carbonyl]-5-(pyrrolidin-1-ylcarbonyl)cyclohexanecarboxylate | C1(=CC=CC=C1)C1CCN(CC1)C(=O)[C@@H]1[C@H](CC(CC1)C(=O)N1CCCC1)C(=O)OC | C25H34N2O4
reactant | BOP reagent | 0.474 mmol, 0.210 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HCl | Cl | ClH
reactant | 4-phenyl-1,2,3,6-tetrahydropyridine | 0.415 mmol, 81 mg | C1(=CC=CC=C1)C=1CCNCC1 | C11H13N
reactant | N, N-diisopropylethylamine | 1.18 mmol, 206 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | (1S,2S)-N-hydroxy-2-[(4-phenyl-3,6-dihydropyridin-1(2H)-yl)carbonyl]-5-(pyrrolidin-1-ylcarbonyl)cyclohexanecarboxamide | 0.126 g, 79.7% yield | ONC(=O)[C@@H]1[C@H](CCC(C1)C(=O)N1CCCC1)C(=O)N1CCC(=CC1)C1=CC=CC=C1 | C24H31N3O4
